US03979204
Example 1 -- Preparation of 2-Cyano-bicyclo[2,2,1]heptane ##SPC2##
159 g (3 moles) of acrylonitrile were dissolved in 100 ml of benzene and warmed to 50°C. after adding a pinch of hydroquinone. 196 g (3 moles) of cyclopentadiene were added dropwise at this temperature, with intensive stirring. In the course thereof, the temperature of the reaction mixture rose (it should not exceed 70°C.). After the exothermic reaction had subsided, the mixture was stirred for 1 hour at 80°C. The solvent was then distilled off and the residue was rectified in vacuo. This gave 272 g (76% of theory) of 2-cyano-bicyclo[2,2,1]heptene-5 of boiling point 82°-87°C/15 mm Hg.

reactant | acrylonitrile | 3 moles, 159 g | C(C=C)#N | C3H3N
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | cyclopentadiene | 3 moles, 196 g | C1=CC=CC1 | C5H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-Cyano-bicyclo[2,2,1]heptane | C(#N)C1C2CCC(C1)C2 | C8H11N
